US07842830B2
2-(3,4-Bis-dodecyloxy-phenyl)-[1,3]dithiane (JYC-I-048-A).
1,3-propanedithiol (4.7 mL, 46.8 mmol) was added to a solution of 3,4-bis(dodecyloxy)benzaldehyde (20.0 g, 42.1 mmol) in 100 mL of chloroform. The reaction mixture was stirred at room temperature for 2 h. Concentrated hydrochloric acid (1.5 mL) was added to the mixture and the mixture was stirred at room temperature for additional 2 h. The mixture was washed with water and a saturated aqueous NaCl solution several times. The organic phase was dried over anhydrous MgSO4. The solvent was removed under reduced pressure and the product was further dried under vacuum at 47° C. overnight to give an off-white solid (22.7 g, 95%). mp 73-75° C. 1H NMR (200 MHz, CDCl3, δ): 6.91-7.00 (m, 2H), 6.78 (d, J=7.8 Hz, 1H), 5.08 (s, 1H), 3.96 (q, J=6.2 Hz, 4H), 2.80-3.12 (m, 4H), 1.89-2.21 (m, 2H), 1.78 (m, 4H), 1.42 (m, 4H), 1.24 (s, 32H), 0.86 (t, J=6.2 Hz, 6H). 13C{1H} NMR (50 MHz, CDCl3, δ): 149.12, 131.56, 120.02, 113.52, 113.14, 69.12, 51.19, 32.15, 31.86, 29.57, 29.36, 29.30, 29.20, 25.97, 25.04, 22.63, 14.05. IR (cm−1): 2916, 2847, 1586, 1517, 1466, 1269, 1137. HRMS-FAB (m/z): [M+H]+ calcd for C34H61O2S2, 565.4113; found, 565.4087. Anal. Calcd for C34H60O2S2: C, 72.28; H, 10.70. Found: C, 72.47; H, 10.78.

reactant | 1,3-propanedithiol | 46.8 mmol, 4.7 mL | C(CCS)S | C3H8S2
reactant | 3,4-bis(dodecyloxy)benzaldehyde | 42.1 mmol, 20.0 g | C(CCCCCCCCCCC)OC=1C=C(C=O)C=CC1OCCCCCCCCCCCC | C31H54O3
reactant | hydrochloric acid | 1.5 mL | Cl | ClH
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(3,4-Bis-dodecyloxy-phenyl)-[1,3]dithiane | 22.7 g, 95% | C(CCCCCCCCCCC)OC=1C=C(C=CC1OCCCCCCCCCCCC)C1SCCCS1 | C34H60O2S2
